US07968570B2
A mixture of 4-bromo-2-bromomethyl-6-chloro-benzoic acid methyl ester (0.684 g, 2.00 mmol), cyclopropyl methyl amine (0.22 mL, 2.6 mmol), and K2CO3 (0.552 g, 4.0 mmol) in toluene (5 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 5-bromo-7-chloro-2-cyclopropyl methyl-2,3-dihydro-isoindol-1-one (0.173 g, 29%). GC-MS: m/z 301 (M)+, 286 (M−15)+. 1H NMR (300 MHz, CDCl3): δ (ppm) 0.34 (m, 2H), 0.59 (m, 2H), 1.05 (m, 1H), 3.47 (d, 2H) 4.44 (s, 2H), 7.50 (s, 1H), 7.58 (s, 1H).

reactant | 4-bromo-2-bromomethyl-6-chloro-benzoic acid methyl ester | 2.00 mmol, 0.684 g | COC(C1=C(C=C(C=C1Cl)Br)CBr)=O | C9H7Br2ClO2
reactant | cyclopropyl methyl amine | 2.6 mmol, 0.22 mL | C1(CC1)NC | C4H9N
reactant | K2CO3 | 4.0 mmol, 0.552 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 5-bromo-7-chloro-2-cyclopropyl methyl-2,3-dihydro-isoindol-1-one | 0.173 g, 29% | BrC=1C=C2C(N(C(C2=C(C1)Cl)=O)C1CC1)C | C12H11BrClNO
